US06166238
Again, to the apparatus of Example 3 were pressure charged 49.6 lb [22.5 kg] (168.2 mol) of methyldiethoxysilane from a 10 gallon Pope can. After addition of the 20.0 g of CPA ethanol solution (15 ppm Pt) and 21.0 ml (460 ppm) of acetic acid through the handhole, the reactor was kept under nitrogen purge, sealed and heated to 85° C. Allyl glycidyl ether (50.6 lb [23 kg], 20 mole % excess or 210.8 mol) was added through a line to the mixture in the reactor from a pressurized can. The AGE was added at a rate that kept the reaction temperature between 85 and 95° C. After two hours, the addition was complete and the hydrosilation lites were stripped. The crude product was vacuum distilled at 104-121° C. (3-7 mm Hg) to yield 75.5 pounds (31.23 kg) of γ-glycidoxypropylmethyldiethoxysilane with an average purity of 99.0%. This represents a conversion of 82.3%. Again present were the silane scrambled products γ-glycidoxy-propyldimethyl(ethoxy) silane (0.39% by GC) and γ-glycidoxypropyltriethoxysilane (0.27% by GC).

reactant | methyldiethoxysilane | 168.2 mol, 49.6 lb | C[SiH](OCC)OCC | C5H14O2Si
reactant | ethanol | C(C)O | C2H6O
reactant | Allyl glycidyl ether | 210.8 mol, 50.6 lb | C(C1CO1)OCC=C | C6H10O2
solvent | acetic acid | 21.0 ml | C(C)(=O)O | C2H4O2
product | γ-glycidoxypropylmethyldiethoxysilane | 75.5 pounds | C(C1CO1)OCCC[Si](OCC)(OCC)C | C11H24O4Si
